US03950362
A solution of 340 mg of 2,5,11-trioxatricyclo[4,3,1,14,8 ]undecan-3-one in 10 ml of absolute ethanol is treated with 300 mg of sodium. After the metal has dissolved the reaction mixture is treated with 10 ml of water and 0.7 ml of acetic acid, concentrated under reduced pressure to about 3 ml and the concentrate is extracted with methylene chloride. The solvent is evaporated to leave as residue pure 2,5,11-trioxatricyclo-[4,3,1,14,8 ]undecan-3-ol.

reactant | 2,5,11-trioxatricyclo[4,3,1,14,8 ]undecan-3-one | 340 mg | C12OC(C3OC(CC(C1)O3)C2)=O | C8H10O4
reactant | sodium | 300 mg | [Na] | Na
reactant | water | 10 ml | O | H2O
reactant | acetic acid | 0.7 ml | C(C)(=O)O | C2H4O2
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 2,5,11-trioxatricyclo-[4,3,1,14,8 ]undecan-3-ol | C12OC(C3OC(CC(C1)O3)C2)O | C8H12O4
